* C:\Users\yoshinsh.AP\PycharmProjects\forWork\hard-ware\degital_circuit\LTpice\sequential_circuit\master-slave\ms-d-flip-flop-old.asc
* Generated by LTspice 24.1.9 for Windows.
A1 0 N001 0 N003 0 N002 0 0 AND vlow=0 vhigh=5
A2 0 N003 0 N004 0 N005 0 0 AND vlow=0 vhigh=5
V1 N001 0 PULSE(0 5 20n 0 0 20n 60n)
V2 N006 0 PULSE(0 5 1n 0 0 2n 4n)
A5 N006 0 0 0 0 N003 0 0 BUF vlow=0 vhigh=5
A7 N001 0 0 0 0 N004 0 0 BUF vlow=0 vhigh=5
A3 0 N002 0 Q2 0 Q1 0 0 AND vlow=0 vhigh=5
A4 0 Q1 0 N005 0 Q2 0 0 AND vlow=0 vhigh=5
.tran 200n
.ic V(Q1)=5 V(Q2)=0
.backanno
.end
